US20010016659A1
Entry 20: According to Method A2, Step 4, 4-amino-2-chlorophenol was reacted with 4-chloro-N-methyl-2-pyridinecarboxamide, which had been synthesized according to Method A2, Step 3b, to give 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)-3-chloroaniline. 5-(Trifluoromethyl)-2-methoxyaniline was converted into 5-(trifluoromethyl)-2-methoxyphenyl isocyanate according to Method B1. 5-(Trifluoromethyl)-2-methoxyphenyl isocyanate was reacted with 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)-3-chloroaniline according to Method C1a to afford the urea.

reactant | 4-amino-2-chlorophenol | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | 4-chloro-N-methyl-2-pyridinecarboxamide | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
product | 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)-3-chloroaniline | CNC(=O)C1=NC=CC(=C1)OC1=C(C=C(N)C=C1)Cl | C13H12ClN3O2
